US09056877B2
To a stirred solution of 3-chloro-4-(ethoxycarbonyl)-5-methylthiophene-2-carboxylic acid (F-5) (7.79 g, 31.3 mmol, 1.0 eq) in AcOH (150 mL) at RT, HgO (7.46 g, 34.4 mmol, 1.1 eq) is added and the resulting mixture is stirred at reflux for 1 h. The reaction mixture is cooled to 50° C.-60° C. and then aqueous HCl (750 mL, 2.4 M, 1.8 mol) is added. The resulting mixture is stirred at reflux for an additional 1 h. The mixture is allowed to cool to RT and extracted with methyl text-butyl ether (3×200 mL). The combined organic layers are washed with sat. NaHCO3 solution (3×200 mL), H2O (200 mL) and brine H2O (200 mL) sequentially. The organic layer is dried over anhydrous Na2SO4 and filtered. The filtrate is concentrated in vacuo and the residue is purified by flash column chromatography on silica gel (2% ethyl acetate-petroether) to afford the product, ethyl 4-chloro-2-methylthiophene-3-carboxylate (F-6).

reactant | 3-chloro-4-(ethoxycarbonyl)-5-methylthiophene-2-carboxylic acid | 31.3 mmol, 7.79 g, 1.0 eq | ClC1=C(SC(=C1C(=O)OCC)C)C(=O)O | C9H9ClO4S
reactant | HCl | 1.8 mol, 2.4 M, 750 mL | Cl | ClH
solvent | AcOH | 150 mL | CC(=O)O | C2H4O2
product | ethyl 4-chloro-2-methylthiophene-3-carboxylate | ClC=1C(=C(SC1)C)C(=O)OCC | C8H9ClO2S
